US07709466B2
3.06 g 6-(tert-Butyldimethylsiloxymethyl)-2-[6-(4-hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester is dissolved in 50 mL THF. After addition of 4.1 g tetrabutylammonium fluoride trihydrate, the red solution is stirred for 2 hours. The reaction mixture is diluted with EtOAc, washed with saturated aqueous ammonium chloride, water, and brine, dried with MgSO4 and concentrated in vacuo. Purification on silica affords 2.04 g (82%) 6-hydroxymethyl-2-[6-(4-hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester.

reactant | 6-(tert-Butyldimethylsiloxymethyl)-2-[6-(4-hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester | 3.06 g | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CO[Si](C)(C)C(C)(C)C)C1=C(N=NC(=C1)C1=CC(=C(C(=C1)C)O)C)OC | C33H43N3O5Si
reactant | tetrabutylammonium fluoride trihydrate | 4.1 g | O.O.O.[F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-hydroxymethyl-2-[6-(4-hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-indole-1-carboxylic acid tert-butyl ester | 2.04 g, 82% | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CO)C1=C(N=NC(=C1)C1=CC(=C(C(=C1)C)O)C)OC | C27H29N3O5
